Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
___ weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 ___ with h/o RA on MTX who presented with pelvic pain and ___ 
weakness.  
 She was sitting and when she was attempting to get up on 
___, she felt that she was having difficulty standing and a 
change in the way she was walking. By the time she reached her 
room, felt that she was unable to walk without assistance, 
unable to turn/move without assistance. Only comfortable 
position was lying on her back. She was experiencing significant 
pain in her pelvic area.  
 She had one episode of nausea, emesis on ___ and presented 
to the ___ infirmary and was treated with IVF, paramomycin 
(took 3 doses yesterday, 1 dose today). Was leaving ___ ___ 
___ and felt again persistent difficulty walking and 
lifting her legs. She returned to the ___ yesterday.  
 Patient was seen at ___ urgent care for ___ weakness 
and pelvic pain for the last 3 days and transferred to the ED 
for further evaluation.  
 No preceding trauma, change in activity, or falls. She denies 
similar pain in the abdominal area, hips, muscles. No prior 
history of weakness/pelvic pain before except that the pain 
similar to pain associated with prior C-section (had complicated 
first C-section w/ infection). Pain described as dull/sore, no 
radiation. She reports she as no pain at rest but develops 
intense pelvic pain with movement/attempting to lift either leg. 
She reports that once standing there is no further pain. She 
reports difficulty walking secondary to the pain. No 
paresthesias, numbness/tingling, ___ weakness, ___ pain.  
 She had been in her usual state of health until this episode. 
Denies any fever/chills, back pain, cough/congestion, CP, SOB, 
diarrhea, hematochezia/melena, dysuria, hematuria. No changes in 
bowel/bladder continence, urinary retention. No change in 
vaginal discharge, vaginal bleeding, hx of STI. Nausea has since 
resolved.  
 She did take her MTX dose today.  
 In the ED, initial VS were 99.4 85 126/18 100% RA.  
 Exam notable for inguinal pain reproduced with passive SLR.  
 Labs showed cbc, bmp, lfts wnl, negative ucg  
 
 Imaging showed  
 CT abd/pelvis  
 1. No evidence of acute intra-abdominal or pelvic abnormality. 
Normal appendix.  
 2. 10 mm left upper pole renal hypodensity, not completely 
characterized on this exam, but does not appear to reflect a 
simple cyst. This can be further assessed with dedicated renal 
ultrasound.  
 
 Pelvic U/S Normal pelvic ultrasound. No evidence of ovarian 
torsion.  
 In the ED, patient received  
 ___ 17:33 IV Ketorolac 30 mg ___  
 ___ 19:41 IV Morphine Sulfate 2 mg ___  
 Pain was not well controlled in the ED and pt still 
demonstrated difficulty with walking. Medicine bed was 
requested.  
 
 On arrival to the floor, patient reports pain significantly 
improved. Reports when she first came into the ED and over the 
past few days has been unable to move/lift legs due to pain. 
Since receiving toradol, pain significantly improved and able to 
move better than she has for several days.  

 
Past Medical History:
 Rheumatoid arthritis  
 Hyperlipidemia  
 PE (___) after long flight to ___  
 
Social History:
___
Family History:
 Father ___ CAD/PVD  
 Mother Other [OTHER]; Stroke  
 Sister ___  
 
 
Physical ___:
ADMISSION PHYSICAL EXAM:  
 Vital Signs: 97.8 PO 108/66 71 18 94 RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL.  
 CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding. No inguinal LAD. No 
tenderness to palpation over lateral hip  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities 
except ___ with hip adduction when tested with patient sitting 
up. ___ bilateral hip flexion strength when lying flat. normal 
sensation to pinprick and light touch, 2+ reflexes bilaterally. 
Negative Romberg, negative pronator drift.  

DISCHARGE PHYSICAL EXAM:
VS: 97.8F, BP 108/66, HR 71, RR 18, O2 94% RA  
GENERAL: In no acute distress, sitting comfortably at the edge 
of bed
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
HEART: Normal rate and rhythm, S1/S2, no murmurs, gallops, or 
rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: Cranial nerves grossly intact. ___ strength in upper 
extremities, ___ strength in lower extremities. Mild pain on hip 
flexion but intact strength and proprioception. 
GAIT: Mild pain leading to slow and cautious gait, but otherwise 
good steadiness and strength.
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  
 
Pertinent Results:
ADMISSION/IMPORTANT LABS
___ 02:45PM BLOOD WBC-6.8 RBC-3.59* Hgb-11.8 Hct-35.3 
MCV-98 MCH-32.9* MCHC-33.4 RDW-13.8 RDWSD-49.0* Plt ___
___ 02:45PM BLOOD Neuts-75.4* Lymphs-9.4* Monos-13.1* 
Eos-0.9* Baso-0.6 Im ___ AbsNeut-5.13 AbsLymp-0.64* 
AbsMono-0.89* AbsEos-0.06 AbsBaso-0.04
___ 02:45PM BLOOD Glucose-89 UreaN-12 Creat-0.9 Na-141 
K-4.1 Cl-104 HCO3-23 AnGap-18
___ 02:45PM BLOOD ALT-38 AST-29 CK(CPK)-66 AlkPhos-75 
TotBili-0.5
___ 02:45PM BLOOD Albumin-4.3 Calcium-9.3 Phos-3.0 Mg-2.4
___ 02:58PM BLOOD Lactate-1.2

DISCHARGE LABS
___ 07:45AM BLOOD WBC-6.5 RBC-3.56* Hgb-11.4 Hct-35.1 
MCV-99* MCH-32.0 MCHC-32.5 RDW-13.5 RDWSD-48.4* Plt ___
___ 07:45AM BLOOD Glucose-91 UreaN-14 Creat-0.8 Na-138 
K-4.3 Cl-102 HCO3-23 AnGap-17
___ 07:45AM BLOOD Calcium-9.5 Phos-3.5 Mg-2.4

IMAGING/STUDIES
CT ABDOMEN/PELVIS: 1. No evidence of acute intra-abdominal or 
pelvic abnormality.  Normal 
appendix. 
2. 10 mm left upper pole renal hypodensity, not completely 
characterized on 
this exam, but does not appear to reflect a simple cyst.  This 
can be further 
assessed with dedicated renal ultrasound. 

TRANSVAGINAL ULTRASOUND:
Normal pelvic ultrasound.  No evidence of ovarian torsion.

RENAL ULTRASOUND:
The right kidney measures 11.2 cm. The left kidney measures  
11.3 cm.  There is a 1.3 cm indeterminate partially hypoechoic,  
partially anechoic lesion in the upper pole of the left kidney 
which may correspond to a cystic structure identified on recent 
CT however cannot be definitively  characterize based on 
location and size.  There is no hydronephrosis or stones  
bilaterally. Normal cortical echogenicity and corticomedullary 
differentiation are  seen bilaterally. The bladder is moderately 
well distended and normal in appearance.
IMPRESSION:
1. Indeterminate 1.3 cm left upper pole renal lesion likely 
corresponds to a cyst identified on recent CT however cannot be 
completely characterized based on location and small size.  If 
any further characterization is desired, MRI may be considered 
on a nonurgent basis.
2. Otherwise, normal renal ultrasound. 

MICROBIOLOGY
___ 3:11 pm BLOOD CULTURE
Blood Culture, Routine (Pending): 
___ 2:46 pm URINE
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

 
Brief Hospital Course:
Ms. ___ is a ___ woman with h/o RA on MTX, remote PE, and 
recent travel to the ___ who presents with acute 
onset groin/pelvic pain and inability to walk secondary to pain, 
with one episode of vomiting. Imaging was benign and pain 
improved with toradol x1.

ACTIVE ISSUES: 
===============================
 # PELVIC/GROIN/HIP PAIN
Patient presents with 3 day history of pain bilaterally in the 
groin. Initially on presentation to the ED was unable to walk 
without assistance and move lower extremities due to pain. After 
receiving toradol in ED, pain improved with improvement in 
mobility, suggestive of a predominantly musculoskeletal 
etiology. Neuro exam intact without focal deficit. Pelvic 
ultrasound negative, CT A/P wnl and reassuring acute fracture, 
avascular necrosis, CK wnl. Does have a remote history of PE 
with prolonged flight and recent travel, so could consider 
proximal clot but would be unlikely given bilateral pain 
improved with NSAID, as well as absence of ___ swelling 
on exam. Given location of pain and tenderness specifically on 
internal/external rotation of hip, most likely hip arthritis 
(rheumatoid arthritis vs reactive arthritis given n/v discussed 
below). ___ includes acute synovitis, enthesitis, 
iliopsoas tendinopathy although unusual given absence of change 
in recent activity. On morning after admission, the patient was 
able to walk and pain was improved. She was discharged with plan 
for shrot course of Tylenol and naproxen for pain. If continues 
to have pain, could consider MRI, orthopedic referral, and 
potentially steroid injections of the hip. Plan for PCP and 
rheumatology follow up. Gonorrhea and chlamydia testing was 
deferred by patient, who preferred to do testing as an 
outpatient.

 # NAUSEA/EMESIS 
Had single episode of nausea/emesis 2 days prior to 
presentation. No recurrence, no abdominal pain. No diarrhea, no 
sick contacts. LFTs wnl. Was given paromomycin (not known to 
cause arthritis or musculoskeletal pain). This antibiotic was 
discontinued.

# RENAL HYPODENSITY: seen on CT - ___ mm left upper pole renal 
hypodensity, does not appear to reflect a simple cyst.'  Renal 
ultrasound did not fully characterize so MRI could be considered 
in the future. 

CHRONIC ISSUES: 
 # HLD: Continue home simvastatin 
 # RA: seropositive, on weekly MTX, continued folic acid 

======================================
TRANSITIONAL ISSUES
======================================
[ ] She was discharged with plan for short course of Tylenol 
and naproxen for pain. 
[ ] If continues to have pain, could consider MRI, orthopedic 
referral, and potentially steroid injections of the hip. 
[ ] Gonorrhea and chlamydia testing was deferred by patient, 
who preferred to do testing as an outpatient.
[ ] Plan for PCP and rheumatology follow up.
[ ] Consider MRI for further characterization of renal lesion
[ ] GC/Chlamydia pending at time of discharge.

 # CODE: full (presumed) 
 # CONTACT: ___ Relationship: ___; Phone: 
___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Methotrexate ___ mg PO QSUN 
2. FoLIC Acid 1 mg PO DAILY 
3. Simvastatin 20 mg PO QPM 
4. Vitamin D 1000 UNIT PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. paromomycin 250 mg oral DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H 
RX *acetaminophen 325 mg 2 capsule(s) by mouth three times a day 
Disp #*60 Capsule Refills:*0 
2.  Naproxen 500 mg PO Q12H 
RX *naproxen 500 mg 1 tablet(s) by mouth twice a day Disp #*20 
Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  FoLIC Acid 1 mg PO DAILY  
5.  Methotrexate ___ mg PO QSUN  
6.  Simvastatin 20 mg PO QPM  
7.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
- Arthralgia of the hip, unknown etiology.

Secondary:
- Rheumatoid arthritis.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ because you had hip and 
groin pain.

WHILE YOU WERE HERE:
- You most likely had pain from the hip joint itself.
- You were given toradol, which helped with pain and 
inflammation.
- Your pelvic ultrasound and your CT scan did not show any 
abnormalities.
- Your renal ultrasound was not read by the radiologist yet when 
you were discharged.

WHEN YOU GO HOME:
- If you are still having pain, please take the Tylenol three 
times a day.
- If you are still having pain with the Tylenol, please take 
naproxen twice a day.
- Please follow up with your doctor if you are having pain.
- If you continue to have pain with those medications, please 
call your doctor for further treatments and work up.
- Your medications and appointments are below.

It was a pleasure taking care of you and we wish you good 
health.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___